US04443246
To a solution of 2.8 g of 4-[2-(6-methyl-2-pyridyl)ethoxy]nitrobenzene in the mixture consisting of 30 ml of methanol and 20 ml of ethyl acetate is added 0.5 g of 10% palladium carbon, and then the mixture is shaken in a stream of hydrogen. After absorption of hydrogen ceased, the mixture is filtered and the filtrate is concentrated under reduced pressure. The residue is dissolved in ethyl acetate and washed with water, dried over anhydrous magnesium sulfate and then concentrated to give 2.24 g of 4-[2-(6-methyl-2-pyridyl)ethoxy]aniline as yellowish brown powder.

reactant | 4-[2-(6-methyl-2-pyridyl)ethoxy]nitrobenzene | 2.8 g | CC1=CC=CC(=N1)CCOC1=CC=C(C=C1)[N+](=O)[O-] | C14H14N2O3
reactant | methanol | 30 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 0.5 g | [C].[Pd]
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-[2-(6-methyl-2-pyridyl)ethoxy]aniline | 2.24 g | CC1=CC=CC(=N1)CCOC1=CC=C(N)C=C1 | C14H16N2O
